US04777270
3-Thiophenoxymethyl-5-t-octylcatechol
A suspension of 3-morpholinomethyl-5-t-octylcatechol (564 g, 1.76 mole) and 193.4 g (1.76 mole) benzenethiol in 0.8 liter dimethylformamide was kept at 130° C. under a nitrogen atmosphere for 20 hours. The reaction mixture was cooled to 25° C. and diluted with 3,000 ml diethyl ether. The resulting solution was washed in turn with 3×1,000 ml water, 500 ml 10% hydrochloric acid, 500 ml water and 500 ml brine. The washed solution was dried over anhydrous magnesium sulfate and evaporated in vacuo to a yellow oil (548.9 g, 91% yield) of the title compound.

reactant | 3-morpholinomethyl-5-t-octylcatechol | 1.76 mole, 564 g | O1CCN(CC1)CC1=C(C(O)=CC(=C1)C(C)(C)CC(C)(C)C)O | C19H31NO3
reactant | benzenethiol | 1.76 mole, 193.4 g | C1(=CC=CC=C1)S | C6H6S
solvent | dimethylformamide | 0.8 liter | CN(C=O)C | C3H7NO
solvent | diethyl ether | 3,000 ml | C(C)OCC | C4H10O
product | 3-Thiophenoxymethyl-5-t-octylcatechol | S(C1=CC=CC=C1)CC1=C(C(O)=CC(=C1)C(C)(C)CC(C)(C)C)O | C21H28O2S
